US09428528B2
Step 1 Preparation of (6-Chloro-pyridazin-3-ylmethyl)-carbamic acid tert-butyl ester
To a stirred solution of C-(6-Chloro-pyridazin-3-yl)-methylamine hydrochloride salt (0.05 g, 0.279 mmol) in acetonitrile (2 mL) is added triethyl amine (0.08 mL, 0.557 mmol) at room temperature followed by addition of di-tert-butyl dicarbonate (0.076 mL, 0.334 mmol). Reaction mixture is heated to 60° C. for 2 hours. Solvent is evaporated, and the crude material is purified by combi-flash eluting with 14% methanol in CH2Cl2 to afford the title compound (0.025 g: 1H NMR (400 MHz, DMSO-d6) 1.39 (s, 9H), 4.40 (d, 6.08 Hz, 2H), 7.59 (m, 1H), 7.62 (d, J=9.04 Hz, 1H), 7.89 (d, J=8.88 Hz, 2H). LC-MS (m/z): [M+H]=244.2.

reactant | C-(6-Chloro-pyridazin-3-yl)-methylamine hydrochloride salt | 0.279 mmol, 0.05 g | Cl.ClC1=CC=C(N=N1)CN
reactant | triethyl amine | 0.557 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.334 mmol, 0.076 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (6-Chloro-pyridazin-3-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC=1N=NC(=CC1)Cl)=O | C10H14ClN3O2
